US05175290
6-Amino-3-carboethoxymethyl-1-propyluracil
6-Amino-1-propyluracil (10 g, 59.1 mmol) was dissolved by warming gently in 60 mL of dimethylsufoxide. 2.0 g (66 mmol) of an 80% dispersion of sodium hydride in mineral oil was added in portions to the solution while stirring under argon. After the evolution of hydrogen ceased, the mixture was heated to 40° C. until a solution resulted. To this solution at 25° C. was added ethyl bromoacetate (7.1 mL, 62 mmol), with the mixture maintained under argon at room temperature for 44 hours. The mixture was then diluted with 200 mL of water and extracted with hexane to remove the mineral oil. The aqueous layer was adjusted to pH 10 with 3N sodium hydroxide and extracted with dichloromethane. The extracts were dried over anhydrous sodium sulfate and concentrated to a brown liquid, which was purified by flash chromatography (silica gel, 9:1/chloroform:ethanol) to yield a crystalline product.

reactant | 6-Amino-1-propyluracil | 59.1 mmol, 10 g | NC1=CC(NC(N1CCC)=O)=O | C7H11N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl bromoacetate | 62 mmol, 7.1 mL | BrCC(=O)OCC | C4H7BrO2
solvent | water | 200 mL | O | H2O
product | 6-Amino-3-carboethoxymethyl-1-propyluracil | NC1=CC(N(C(N1CCC)=O)CC(=O)OCC)=O | C11H17N3O4
